Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.556782917
[H:1][O:2].[O:3]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.36041666351
[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[O:13][H:14],4.4093514945
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.3695590931800004
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],1.83541384252
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.59321476199
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],4.56984318314
[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.19157922888
[H:7].[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.60383581114
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13],-1.70986848565
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.92246381451
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:6],1.7375809074400002
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-6.320766014299999
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-5.16979984262
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3],0.809128417639
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],3.41185032482
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],1.5667368224399998
[H:1][C:2]#[C:3][C:4]([H:5])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.77839245021
[O:1]=[C:3]([C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],0.1731738257099999
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8]>>[C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8].[O:1],3.4523120924
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][H:8],7.416168780389999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],4.49598070197
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.32457489759
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.860616550930002
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11].[H:1],5.22189588976
[H:1][C:2]#[C:3][O:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10],-2.18791427071
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.69620556775
